US04705853
7-Chloro-2-(2-chloroethyl)-2,3-dihydro-4,8-dimethylpyrido[3,2-f]-1,4-oxazepin-5(4H)-one
To a suspension of 29.6 g of 60% sodium hydride (0.74 mole) in 300 ml of tetrahydrofuran under a nitrogen blanket and at reflux was added dropwise at a rate to maintain good reflux a solution of 74.5 g (0.36 mole) of 2,5-dichloro-6-methyl-3-pyridinecarboxylic acid and 36.5 g (0.36 mole) of N-methylpyrrolidinol in 300 ml of tetrahydrofuran. The mixture was heated at reflux for 2 hr and cooled to 15° C. To the mixture was added dropwise, carefully, 47.2 g of oxalyl chloride between 15°-20° C. The mixture was stirred at room temperature for 1.5 hr followed by addition of 400 ml of water. Stirring was continued for 10 minutes. Tetrahydrofuran was removed by rotary evaporation and the remaining aqueous extracted with 3×200 ml of toluene. The combined organic layers were washed with 300 ml of water, dried over sodium sulfate, filtered, charcoaled, and concentrated by rotary evaporation. The residue was crystallized from isopropyl alcohol/isopropyl ether to give 33 g (30%) of crystals. A 3 g sample was recrystallized from isopropyl ether to give an analytically pure sample, m.p. 65°-69° C.

reactant | sodium hydride | 0.74 mole, 29.6 g | [H-].[Na+]
reactant | 2,5-dichloro-6-methyl-3-pyridinecarboxylic acid | 0.36 mole, 74.5 g | ClC1=NC(=C(C=C1C(=O)O)Cl)C | C7H5Cl2NO2
reactant | oxalyl chloride | 47.2 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | water | 400 ml | O | H2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 7-Chloro-2-(2-chloroethyl)-2,3-dihydro-4,8-dimethylpyrido[3,2-f]-1,4-oxazepin-5(4H)-one | 33 g, 30% | ClC1=CC=2C(N(CC(OC2N=C1C)CCCl)C)=O | C12H14Cl2N2O2
